US05495023
A mixture of N-(4-ethyl-6-methyl-2,4-heptadiene-1-yl)phthalimide (17.62 g), hydrazine monohydrate (9.9 g), and ethanol (700 ml) was refluxed for 90 minutes under nitrogen atmosphere. The reaction mixture was evaporated in vacuo. The residue was dissolved in 10% aqueous potassium carbonate solution and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, and evaporated to give 4-ethyl-6-methyl-2,4-heptadiene-1-ylamine as an oil.

reactant | N-(4-ethyl-6-methyl-2,4-heptadiene-1-yl)phthalimide | 17.62 g | C(C)C(C=CCN1C(C=2C(C1=O)=CC=CC2)=O)=CC(C)C | C18H21NO2
reactant | hydrazine monohydrate | 9.9 g | O.NN
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 4-ethyl-6-methyl-2,4-heptadiene-1-ylamine | C(C)C(C=CCN)=CC(C)C | C10H19N
